US08217043B2
a) 1-[(Biphenyl-4-ylmethylene)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the imine formation condition used in Example 18 step b) from 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester and 4-phenyl benzaldehyde in refluxing methanol for 12 h. 1H NMR (CDCl3, δ in ppm): 8.43 (s, 1H), 7.91 (d, 2H, J=8.4 Hz), 7.68 (d, 2H, J=8.4 Hz), 7.66-7.16 (m, 5H), 7.20 (d, 1H, J=2.2 Hz), 6.90 (d, 1H, J=1.8 Hz), 3.84 (s, 3H).

reactant | 1-amino-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N | C6H7ClN2O2
reactant | 4-phenyl benzaldehyde | C1(=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O
solvent | methanol | CO | CH4O
product | 1-[(Biphenyl-4-ylmethylene)-amino]-4-chloro-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N=CC1=CC=C(C=C1)C1=CC=CC=C1 | C19H15ClN2O2
